US04731381
Parenteral Solution of Sodium 4-[2,3-dichloro-4-(2-methylenevaleryl)phenoxy]butyrate
250 mg of 4-[2,3-dichloro-4-(2-methylenevaleryl)phenoxy]butyric acid is dissolved in 62 ml of 0.1N sodium bicarbonate and sufficient isotonic buffer to make a final volume of 100 ml. The water from all sources was pyrogen free. The solution is sterilized by filtration.

reactant | 4-[2,3-dichloro-4-(2-methylenevaleryl)phenoxy]butyric acid | 250 mg | ClC1=C(OCCCC(=O)O)C=CC(=C1Cl)C(C(CCC)=C)=O | C16H18Cl2O4
reactant | water | O | H2O
reactant | sodium bicarbonate | 0.1N, 62 ml | C([O-])(O)=O.[Na+]
product | Sodium 4-[2,3-dichloro-4-(2-methylenevaleryl)phenoxy]butyrate | ClC1=C(OCCCC(=O)[O-])C=CC(=C1Cl)C(C(CCC)=C)=O.[Na+] | InChI=1S/C16H18Cl2O4.Na/c1-3-5-10(2)16(21)11-7-8-12(15(18)14(11)17)22-9-4-6-13(19)20;/h7-8H,2-6,9H2,1H3,(H,19,20);/q;+1/p-1
